US08603975B2
To a solution of tert-butyl 4-(3-thienyl)-3,6-dihydropyridine-1(2H)-carboxylate (170 mg) in EtOAc (1.7 ml) and water (0.085 ml) was added 4 N hydrogen chloride in EtOAc (1.7 ml) and the mixture was stirred at room temperature for 1 hour. Solvent was removed in vacuo to give 4-(3-thienyl)-1,2,3,6-tetrahydropyridine hydrochloride (120 mg) as a dark gray powder. The obtained crude product was used in next reaction without further purification.

reactant | tert-butyl 4-(3-thienyl)-3,6-dihydropyridine-1(2H)-carboxylate | 170 mg | S1C=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C14H19NO2S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | EtOAc | 1.7 ml | CCOC(=O)C | C4H8O2
solvent | water | 0.085 ml | O | H2O
solvent | EtOAc | 1.7 ml | CCOC(=O)C | C4H8O2
product | 4-(3-thienyl)-1,2,3,6-tetrahydropyridine hydrochloride | 120 mg | Cl.S1C=C(C=C1)C=1CCNCC1 | InChI=1S/C9H11NS.ClH/c1-4-10-5-2-8(1)9-3-6-11-7-9;/h1,3,6-7,10H,2,4-5H2;1H
